US04297516
4-Trimethylsilyloxy-2-(6-phenoxyacetylhexyl)cyclopent-2-en-1-one
A mixture of 6.3 g. of 4-hydroxy-2-(6-phenoxyacetylhexyl)cyclopent-2-en-1-one, 3.34 g. of hexamethyldisilizane and 1.12 g. of chlorotrimethylsilane in 20 ml. of pyridine is stirred at room temperature for 2.5 hours. The pyridine is removed. The residue is dissolved in petroleum ether and filtered through Celite. The filtrate is washed with saturated sodium bicarbonate solution, dried over magnesium sulfate and filtered through a pad of silica gel. The pad is washed with ether. The filtrate and washings are combined and the solvent is removed. The resulting yellow oil is crystallized in a freezer giving the desired product.

reactant | 4-hydroxy-2-(6-phenoxyacetylhexyl)cyclopent-2-en-1-one | OC1C=C(C(C1)=O)CCCCCCC(COC1=CC=CC=C1)=O | C19H24O4
reactant | hexamethyldisilizane | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Trimethylsilyloxy-2-(6-phenoxyacetylhexyl)cyclopent-2-en-1-one | C[Si](OC1C=C(C(C1)=O)CCCCCCC(COC1=CC=CC=C1)=O)(C)C | C22H32O4Si
